US06756382B2
Using the general method of Example 186 1-(8-aminooctyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.84 g, 2.27 mmol) was reacted with benzoyl choride (260 μL, 2.27 mmol) to provide 0.48 g of N-{8-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]octyl}benzamide as a tan powder, m.p. 133.4-137.5° C. Analysis: Calculated for C28H35N5O2: % C, 71.01; % H, 7.45; % N, 14.79. Found: % C, 71.41; % H, 7.35; % N, 14.48.

reactant | 1-(8-aminooctyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 2.27 mmol, 0.84 g | NCCCCCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C21H31N5O
reactant | benzoyl choride | 2.27 mmol, 260 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-{8-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]octyl}benzamide | 0.48 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCCCCCNC(C2=CC=CC=C2)=O)CCOC | C28H35N5O2
